US05145865
(1) 1-(4-Tolyl)-5-oxo-3-pyrrolidinecarboxylic acid
p-Toluidine (23.05 g) and itaconic acid (28.0 g) are mixed and heated at 130° C. for 1 hour to melt and then allowed to cool. Water (200 ml) is added thereto and the reaction mixture is crushed. The resulting precipitate is collected by filtration, washed with water and recrystallized from a mixed solvent (about 300 ml) of ethyl acetate and hexane [1:3 (v/v)] to give the desired product (45.73 g), m.p. 185°-187° C.

reactant | p-Toluidine | 23.05 g | NC1=CC=C(C=C1)C | C7H9N
reactant | itaconic acid | 28.0 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
solvent | Water | 200 ml | O | H2O
product | 1-(4-Tolyl)-5-oxo-3-pyrrolidinecarboxylic acid | 45.73 g | C1(=CC=C(C=C1)N1CC(CC1=O)C(=O)O)C | C12H13NO3
